US07514068B2
Example 13: Diethyl 3-thioxopentanedioate.
Dissolve 14.1 mmol of diethyl 3-oxopentanedioate in 15 mL of toluene under argon add 49.4 mmol of sodium bicarbonate and 15.1 mmol of Lawesson's reagent. Stir for 1 h at room temperature then heat under reflux for 5 h. Cool, filter, and concentrate in vacuo. Purify the residue by silica gel chromatography using ethyl acetate/hexanes eluant to yield the title compound.

reactant | diethyl 3-oxopentanedioate | 14.1 mmol | O=C(CC(=O)OCC)CC(=O)OCC | C9H14O5
reactant | sodium bicarbonate | 49.4 mmol | C([O-])(O)=O.[Na+]
reactant | Lawesson's reagent | 15.1 mmol | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | Diethyl 3-thioxopentanedioate | S=C(CC(=O)OCC)CC(=O)OCC | C9H14O4S
